US07491716B2
2,3-dihydro-6-fluoroindole
Add sodium cyanoborohydride (5.57 g, 88.78 mmol) to a solution of 6-fluoro-indole (10 g, 73.99 mmol) in acetic acid (100 ml). Stir at room temperature for 30 minutes. Pour the reaction mixture into 5N sodium hydroxide and extract with ethyl acetate. Wash the combined organic phases with saturated aqueous sodium bicarbonate followed by saturated aqueous sodium chloride. Concentrated under reduced pressure and subject the residue to silica gel chromatography to provide the desired compound as a colorless oil (7.69 g, 76%).

reactant | sodium cyanoborohydride | 88.78 mmol, 5.57 g | C(#N)[BH3-].[Na+]
reactant | 6-fluoro-indole | 73.99 mmol, 10 g | FC1=CC=C2C=CNC2=C1 | C8H6FN
reactant | sodium hydroxide | 5N | [OH-].[Na+]
solvent | acetic acid | 100 ml | C(C)(=O)O | C2H4O2
product | 2,3-dihydro-6-fluoroindole | 7.69 g, 76% | FC1=CC=C2CCNC2=C1 | C8H8FN
